US08008525B2
3-(Pyridin-2-yloxy)benzaldehyde
3-Hydroxybenzyl alcohol (1.0 g, 8.2 mmol) was dissolved in pyridine (20 mL). 2-Bromopyridine (1.6 g, 9.8 mmol) and potassium carbonate (2.3 g, 16.4 mmol) were added thereto, and then the mixture was stirred at 90° C. for 10 minutes. Copper oxide(II) (1.6 g, 20.5 mmol) was further added thereto, and the reaction mixture was heated under reflux for 2 days. The reaction solution was filtered, and concentrated under reduced pressure. To the residue was added water, and the mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 70:30) to give the title compound (1.0 mg, yield 61%).

reactant | 3-Hydroxybenzyl alcohol | 8.2 mmol, 1.0 g | OC=1C=C(CO)C=CC1 | C7H8O2
reactant | 2-Bromopyridine | 9.8 mmol, 1.6 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 16.4 mmol, 2.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 3-(Pyridin-2-yloxy)benzaldehyde | 1.0 mg, yield 61% | N1=C(C=CC=C1)OC=1C=C(C=O)C=CC1 | C12H9NO2
